US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(3-bromo-2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (1.29 g) and pyridine (220 μl) are dissolved in methylene chloride (15 ml) and thereto is added trifluoromethanesulfonic anhydride (460 μl) under ice-cooling, and the mixture is stirred under nitrogen atmosphere at 0° C. for 45 minutes. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and chloroform, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(3-bromo-2-trifluoromethanesulfonyloxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (907 mg). MS (m/z): 836/838 [M+H]+

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(3-bromo-2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 1.29 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C(=CC(=C2)C(F)(F)F)Br)O)C=C(C1)C(F)(F)F)(F)F | C27H23BrF9N3O4
reactant | pyridine | 220 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 460 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(3-bromo-2-trifluoromethanesulfonyloxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 907 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C(=CC(=C2)C(F)(F)F)Br)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C28H22BrF12N3O6S
